US04254267
(D) (±)-1-[3-(Acetylthio)-1-oxopropyl]-3-(2-pyridyl)-4,5-dihydro-1H-pyrazole-5-carboxylic acid
(±)-3-(2-Pyridyl)-4,5-dihydro-1H-pyrazole-5-carboxylic acid (3.82 g) is dissolved in 100 ml of water containing 2.12 g of sodium bicarbonate at 10° C. 3-(Acetylthio)propionyl chloride (3.9 g) in 15 ml of ether and 20% sodium carbonate solution are added simultaneously; the pH is maintained between 7.5 and 8.5. The reaction mixture is then stirred at room temperature for 2 hours and extracted with ether (discarded). The aqueous layer is acidified with acetic acid and extracted with ethyl acetate three times. The solvent is dried over anhydrous magnesium sulfate and concentrated in vacuo, yielding the title compound.

reactant | (±)-3-(2-Pyridyl)-4,5-dihydro-1H-pyrazole-5-carboxylic acid | 3.82 g | N1=C(C=CC=C1)C1=NNC(C1)C(=O)O | C9H9N3O2
reactant | 3-(Acetylthio)propionyl chloride | 3.9 g | C(C)(=O)SCCC(=O)Cl | C5H7ClO2S
solvent | water | 100 ml, 2.12 g | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | (±)-1-[3-(Acetylthio)-1-oxopropyl]-3-(2-pyridyl)-4,5-dihydro-1H-pyrazole-5-carboxylic acid | C(C)(=O)SCCC(=O)N1N=C(CC1C(=O)O)C1=NC=CC=C1 | C14H15N3O4S
